* D:\two-ticks\JKOSC\PID-fuzzy-logic-using-opamp\fuzzy-logic\min.asc
XU1 N005 N002 N003 0 Vo level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
V1 N001 0 30V
V4 N003 0 10V
R1 N005 N004 10k
R2 Vo N002 0.001k
R3 N002 0 10k
D1 N004 Vx 1N4148
D2 N004 Vy 1N4148
R4 N001 N004 10k
D3 Vo N006 1N4148
R5 N006 0 10k
V5 Vx 0 SINE(0 1 10)
V6 Vy 0 SINE(0 -1 0)
.model D D
.lib C:\Users\Radium\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib UniversalOpamp.lib
.backanno
.end
